US06951879B2
In analogy to example 17.1, Methanesulfonic acid 3-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl ester and azetidine were converted to yield 6-(3-Azetidin-1-yl-prop-1-ynyl)-3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazole as light brown oil, MS: 373 (MH+).

reactant | Methanesulfonic acid 3-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl ester | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCOS(=O)(=O)C)(F)F | C18H12F3NO3S2
reactant | azetidine | N1CCC1 | C3H7N
product | 6-(3-Azetidin-1-yl-prop-1-ynyl)-3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazole | N1(CCC1)CC#CC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C20H15F3N2S
